US08304419B2
Step D: Ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylate
A solution of 1-(1,1-dimethylethyl)2-ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-1,2-dicarboxylate (0.500 g, 1.31 mmol) in THF was treated with 4 M HCl in dioxane and stirred for 5 hours. The solvent was evaporated to an oil and the residue was dissolved in DCM and TFA was added and stirred until no starting material remained as evident by TLC. The mixture was evaporated to a solid and purification was accomplished by silica gel column chromatography (0-50% EtOAc/hexanes) to afford the title compound (0.228 g, 61%) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.21-9.37 (m, 1H), 7.32 (d, 1H), 7.12-7.16 (m, 1H), 7.09 (d, 1H), 7.00 (dd, 1H), 4.42 (q, 2H), 4.19 (t, 2H), 2.91 (t, 2H), 2.22 (s, 3H), 1.42 (t, 3H). LCMS: m/z=279.9 (M+1).

reactant | 1-(1,1-dimethylethyl)2-ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-1,2-dicarboxylate | 1.31 mmol, 0.500 g | CSCCOC=1C=C2C=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-]
reactant | HCl | 4 M | Cl | ClH
reactant | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 5-{[2-(methylthio)ethyl]oxy}-1H-indole-2-carboxylate | 0.228 g, 61% | CSCCOC=1C=C2C=C(NC2=CC1)C(=O)OCC | C14H17NO3S
